US05378689
(3R, 5S)-5-{(1S)-1-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H) -one
A mixture of 513 mg (1.58 mmole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) and 20 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 65 minutes. At the end of this time, the solvent was stripped from the mixture by distillation under reduced pressure, and diethyl ether was added to the residue. The resulting mixture was then concentrated by evaporation under reduced pressure. This operation was repeated three times, in total, after which the final residue was dried by evaporation under reduced pressure for 8 hours. At the end of this time, the dried materials were suspended in 30 ml of anhydrous tetrahydrofuran, and 460 mg (1.69 mmole) of N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine were added to the suspension. 0.27 ml (1.69 mmole) of 95% diethyl cyanophosphonate and 0.88 ml (6.34 mmole) of triethylamine were then added to the mixture, whilst ice-cooling and under an atmosphere of nitrogen. The mixture was then stirred at room temperature for 6 hours, after which the solvent was removed by distillation under reduced pressure. The resulting residue was mixed with 50 ml of water to deposit gummy materials. These were collected by filtration and washed with water. They were then dissolved in methylene chloride. The resulting solution was dried over anhydrous magnesium sulfate, and the solvent was then removed by distillation under reduced pressure. The residue was recrystallized from diisopropyl ether to afford 532 mg of the title compound as white crystals, melting at 118°-120° C.

reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 1.58 mmole, 513 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
reactant | hydrogen chloride | Cl | ClH
reactant | N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanine | 1.69 mmole, 460 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)O | C11H16N2O4S
reactant | diethyl cyanophosphonate | 1.69 mmole, 0.27 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 6.34 mmole, 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3R, 5S)-5-{(1S)-1-[N-(t-Butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H) -one | 532 mg | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C24H37N3O5S
